US04954509
EXAMPLE 30 1-dimethylamino-eth-1-yl-2-(3,4-dichlorophenyl)acetyl-1,2,3,4 -tetrahydroisoquinoline. Diastereoisomer A - Erithro form.
Prepared as Ex. No. 1, from 2.7 g (13.30 mmoles) of 1- dimethylamino-eth-1-yl-1,2,3,4-tetrahydroisoquinoline (diastereoisomeric mixture), 3.05 g (15.00 mmoles) of 3,4-dichlorophenylacetic acid and 4.2 g (20.39 mmoles) of dicyclohexylcarbodiimide, in 100 ml of dry methylene chloride.

reactant | 1- dimethylamino-eth-1-yl-1,2,3,4-tetrahydroisoquinoline | 13.30 mmoles, 2.7 g | CN(C(C)C1NCCC2=CC=CC=C12)C | C13H20N2
reactant | 3,4-dichlorophenylacetic acid | 15.00 mmoles, 3.05 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | dicyclohexylcarbodiimide | 20.39 mmoles, 4.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-dimethylamino-eth-1-yl-2-(3,4-dichlorophenyl)acetyl-1,2,3,4 -tetrahydroisoquinoline | CN(C(C)C1(NCCC2=CC=CC=C12)C(CC1=CC(=C(C=C1)Cl)Cl)=O)C | C21H24Cl2N2O
